US08686024B2
Synthesis of 1-phenylindolin-5-yl 4-isopropylphenylcarbamate
To a solution of indolin-5-yl 4-isopropylphenylcarbamate (50 mg, 0.17 mmol) in 3.4 mL of acetonitrile was added 2-(trimethylsilyl)phenyl trifluoromethanesulfonate (41 μL, 0.17 mmol) and caesium fluoride (51 mg, 0.34 mmol) at room temperature, successively. After the reaction mixture was stirred at the same temperature overnight, the reaction mixture was diluted with ethyl acetate. The organic layer was washed with water and brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5 to 80/20) to obtain the title compound as a white solid (5.2 mg, 8%).

reactant | indolin-5-yl 4-isopropylphenylcarbamate | 0.17 mmol, 50 mg | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCNC2=CC1)=O | C18H20N2O2
reactant | 2-(trimethylsilyl)phenyl trifluoromethanesulfonate | 0.17 mmol, 41 μL | FC(S(=O)(=O)OC1=C(C=CC=C1)[Si](C)(C)C)(F)F | C10H13F3O3SSi
reactant | caesium fluoride | 0.34 mmol, 51 mg | [F-].[Cs+]
solvent | acetonitrile | 3.4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-phenylindolin-5-yl 4-isopropylphenylcarbamate | 5.2 mg, 8% | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)C1=CC=CC=C1)=O | C24H24N2O2
